US07241792B2
Step D: Preparation of 4-(5-Cyclopropyl-pent-3-ynyl)-2,2-dimethyl-[1,3]dioxolane
To a solution of 4-But-3-ynyl-2,2-dimethyl-[1,3]dioxolane (6 mmol, 1.0 g) in 40 ml anhydrous THF and anhydrous DMPU (26 mmol, 3 g) was added a solution of 2.5M BuLi in hexane (9.01 mmol, 3.6 mL) at −78° C. It was stirred at −78 ° C. for 15 minutes and slowly warmed up to room temperature. The reaction mixture was quenched with sat. NH4Cl and extracted by EtOAc. The combined organic layer was washed with H2O and brine, dried by MgSO4 and concentrated. Silica gel chromatography (2˜10% EtOAc/Hexane) 4(5-Cyclopropyl-pent-3-ynyl)-2,2-dimethyl-[1,3]dioxolane as a clear oil; 1H NMR (400 MHz, CDCl3): δ 4.22–5.15 (m, 1H), 4.07 (dd, 1H, J3=8.0 Hz, J2=6.0 Hz), 3.57 (dd, 1H, J1=7.9 Hz, J2=7.1 Hz), 2.29–2.23 (m, 2H), 2.20–2.16 (m, 2H), 1.83–1.77 (m, 1H), 1.72–1.65 (m, 1H), 1.40 (s, 3H), 1.35 (s, 3H), 0.91–0.86 (m, 1H), 0.46–0.41(m, 2H), 0.21–0.17 (m, 2H).

reactant | 4-But-3-ynyl-2,2-dimethyl-[1,3]dioxolane | 6 mmol, 1.0 g | C(CC#C)C1OC(OC1)(C)C | C9H14O2
reactant | DMPU | 26 mmol, 3 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | BuLi | 2.5M | [Li]CCCC
reactant | hexane | 9.01 mmol, 3.6 mL | CCCCCC | C6H14
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-(5-Cyclopropyl-pent-3-ynyl)-2,2-dimethyl-[1,3]dioxolane | C1(CC1)CC#CCCC1OC(OC1)(C)C | C13H20O2
